* C:\Users\mnrpr\Documents\LTspiceXVII\BGR_currentmirror.asc
M1 N001 N003 N004 N002 PMOS l=1u w=1.5u
M2 N001 N003 N003 N001 PMOS l=1u w=1.5u
M3 N001 N003 Vref N001 PMOS l=1u w=1.5u
M4 N004 N004 N006 0 NMOS l=1u w=1u
Q1 0 0 N006 0 2N5087
Q5 0 0 N008 0 2N5087
R1 Vref N008 41k
R2 N005 N007 3.3k
V1 N001 0 3.3
Q2 0 0 N007 0 2N5087
M5 N003 N004 N005 0 NMOS l=1u w=1u
Q3 0 0 N007 0 2N5087
Q4 0 0 N007 0 2N5087
Q6 0 0 N007 0 2N5087
Q7 0 0 N007 0 2N5087
Q8 0 0 N007 0 2N5087
Q9 0 0 N007 0 2N5087
Q10 0 0 N007 0 2N5087
R3 Vref 0 100000k
* .model 2N5087 PNP
.model 2N5087 PNP Is=6.734f Xti=3 Eg=1.11 Vaf=45.7 Bf=254.1 Ne=1.741 Ise=6.734f Ikf=.1962 Xtb=1.5 Br=2.683 Nc=2 Isc=0 Ikr=0 Rc=1.67 Cjc=6.2p Mjc=.301 Vjc=.75 Fc=.5 Cje=7.5p Mje=.2861 Vje=.75 Tr=10.1n Tf=467.8p Itf=.17 Vtf=5 Xtf=8 Rb=10 Vceo=50 Icrating=100m 

.include standard.bjt
* .lib C:\Users\mnrpr\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.include standard.mos
* .lib C:\Users\mnrpr\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V1 2 4 0.2
*.tran 0 100 0 10
.control
run 
plot v(Vref)
.endc
.end
